US09216999B2
3-Amino-2-(4-chlorophenyl)-1,1,1-trifluoropropan-2-ol
1-(4-Chlorophenyl)-2,2,2-trifluoroethanone (2.00 g, 9.59 mmol) in nitromethane (10 mL) was stirred with potassium carbonate (1.32 g, 9.59 mmol) at room temperature for 1 hour. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue (pale yellow amorphous, 3.3 g) was dissolved in ethanol (52 mL), then 6 M hydrochloric acid was added dropwise under cooling with ice, and zinc powder (3.13 g, 48.0 mmol) was gradually added. The reaction mixture was stirred for one day while the temperature was gradually raised to room temperature, and filtered through Celite. The filtrate was concentrated under reduced pressure. The residue was mixed with 28 wt % aqueous ammonia and extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1→1/1 (v/v)) to give the title compound as a colorless solid (609 mg, yield 26%).

reactant | 1-(4-Chlorophenyl)-2,2,2-trifluoroethanone | 9.59 mmol, 2.00 g | ClC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4ClF3O
reactant | potassium carbonate | 9.59 mmol, 1.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | nitromethane | 10 mL | [N+](=O)([O-])C | CH3NO2
catalyst | zinc | 48.0 mmol, 3.13 g | [Zn] | Zn
product | 3-Amino-2-(4-chlorophenyl)-1,1,1-trifluoropropan-2-ol | 609 mg, yield 26% | NCC(C(F)(F)F)(O)C1=CC=C(C=C1)Cl | C9H9ClF3NO
